US07427635B2
2-{(2S,3S)-2-[(R)-2-tert-butoxycarbonylamino-2-(4-tert-butoxycarbonylamino-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester (510 mg, 0.76 mmol) was dissolved in 30% v/v trifluoroacetic acid in dichloromethane solution (10 mL) at 0° C. The mixture was stirred at 0° C. for 2.5 hours and then partitioned between ethyl acetate and saturated aqueous sodium carbonate. The aqueous layer was adjusted to pH=9 by the addition of solid sodium carbonate and the organic layer collected, dried over sodium sulfate, filtered and concentrated. The residue was without further purification dissolved in tetrahydrofuran (50 mL) and the resulting solution cooled to 0° C. A solution of di-tert-butyldicarbonate (167 mg, 0.76 mmol) in tetrahydrofuran (5 mL) was added dropwise and after stirring overnight the reaction mixture was evaporated and the residue was purified by chromatography over silica gel gradient eluted with 0 to 100% ethyl acetate in hexanes to afford 2-{(2S,3S)-2-[(R)-2-(4-amino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester as a white solid (250 mg, 58%).

reactant | 2-{(2S,3S)-2-[(R)-2-tert-butoxycarbonylamino-2-(4-tert-butoxycarbonylamino-phenyl)-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | 0.76 mmol, 510 mg | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@@H](C1=CC=C(C=C1)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O)=O | C33H41N5O8S
reactant | di-tert-butyldicarbonate | 0.76 mmol, 167 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-{(2S,3S)-2-[(R)-2-(4-amino-phenyl)-2-tert-butoxycarbonylamino-acetylamino]-3-phenyl-butyrylamino}-thiazole-4-carboxylic acid methyl ester | 250 mg, 58% | COC(=O)C=1N=C(SC1)NC([C@H]([C@@H](C)C1=CC=CC=C1)NC([C@H](NC(=O)OC(C)(C)C)C1=CC=C(C=C1)N)=O)=O | C28H33N5O6S
